US04973588
In 5 ml of pyridine was dissolved 0.70 g (2.84 millimoles) of 2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole, and 0.26 ml (2.84 millimoles) of N,N-dimethylcarbamoyl chloride was added to the solution and the mixture was heated at 120° C. for 5 hours. The mixture was concentrated under reduced pressure and 20 ml of water and 20 ml of chloroform were added to the concentrate to effect extraction. The chloroform layer was dried and concentrated under reduced pressure to obtain 0.9 g (yield=100%) of intended 1-(N,N-dimethylcarbamoyl)-2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole (compound No. 30) in the form of a light brown oil.

reactant | 2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole | 2.84 millimoles, 0.70 g | CN(C(=O)SC=1NC=C(N1)C1=CC=CC=C1)C | C12H13N3OS
reactant | N,N-dimethylcarbamoyl chloride | 2.84 millimoles, 0.26 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(N,N-dimethylcarbamoyl)-2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole | 0.9 g, yield=100% | CN(C(=O)N1C(=NC(=C1)C1=CC=CC=C1)SC(N(C)C)=O)C | C15H18N4O2S
